US20010021478A1
Synthesis of 1,2,4,5-tetra-p-biphenylylbenzene (Compound 10)
Dry Mg turnings (3.9g, 0.16 mol) and 30 mL of anhydrous THF were added to a 1 L 3-necked round-bottomed flask equipped with a condenser, a nitrogen inlet, an additional funnel and a magnetic stirring bar. 4-Bromobiphenyl (37.2 g, 0.16 mol) was dissolved in 150 mL of THF and placed in an additional funnel. The reaction flask was placed in a 50° C. oil bath and one crystal of iodine was added. Once the reaction started 4-bromobiphenyl was added dropwise to the reaction. After addition, the brownish reaction was heated at reflux for another hour and then cooled to room temperature. A suspension of hexabromobenzene (11.0 g, 0.02 mol) in 150 mL of THF was added dropwise from an additional funnel to the reaction and the mixture was stirred at room temperature overnight. The reaction was quenched with ice and 8% hydrochloric acid and extracted with 400 mL of methylene chloride. The organic layer was washed with saturated sodium chloride solution and dried over magnesium sulfate. Solvent was evaporated and the crude product was washed with hexane and filtered to give pure product.

reactant | 4-Bromobiphenyl | 0.16 mol, 37.2 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | iodine | II | I2
reactant | hexabromobenzene | 0.02 mol, 11.0 g | BrC1=C(C(=C(C(=C1Br)Br)Br)Br)Br | C6Br6
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,2,4,5-tetra-p-biphenylylbenzene | C1(=C(C=CC=C1)C1=C(C=C(C(=C1)C1=C(C=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C1=CC=CC=C1)C1=C(C=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C54H38
